US09403798B2
[3-(1,1-Difluoroethyl)-1H-pyrazol-1-yl]methanol
To an ethanol solution (1.0 mL) of 3-(1,1-difluoroethyl)-1H-pyrazole (145 mg, 1.09 mmol) synthesized in Reference Synthesis Example 118, a formalin aqueous solution (1.0 mL) was added and the resultant mixture was stirred at 70° C. for 1 hour. After completion of the reaction, the reaction solution was concentrated under reduced pressure to obtain the title compound as a crude product.

reactant | 3-(1,1-difluoroethyl)-1H-pyrazole | 1.09 mmol, 145 mg | FC(C)(F)C1=NNC=C1 | C5H6F2N2
reactant | formalin | 1.0 mL | C=O | CH2O
solvent | ethanol | 1.0 mL | C(C)O | C2H6O
product | [3-(1,1-Difluoroethyl)-1H-pyrazol-1-yl]methanol | FC(C)(F)C1=NN(C=C1)CO | C6H8F2N2O
